US06069177
(2RS,3SR)-3-cyclohexyl-3-hydroxy-2-(4'-methoxyphenyl)-propionitrile
Reaction of p-methoxyphenylacetonitrile and cyclohexane-carboxaldehyde on a 20 mmol scale according to the procedure in Example 1, and two successive recrystallizations from chloroform/hexane gave 3.51 g of the desired anti-aldol product (68%), mp: 112.0-113.2° C. NMR (1H, 13C), IR, and Mass spectra were consistent with the assigned structure. Analysis: Calcd for C16H21NO2 : C, 74.10; H, 8.16; N, 5.40. Found: C, 74.25; H, 8.15; N, 5.39.

reactant | p-methoxyphenylacetonitrile | COC1=CC=C(C=C1)CC#N | C9H9NO
reactant | cyclohexane-carboxaldehyde | C1(CCCCC1)C=O | C7H12O
product | (2RS,3SR)-3-cyclohexyl-3-hydroxy-2-(4'-methoxyphenyl)-propionitrile | 68% | C1(CCCCC1)C(C(C#N)C1=CC=C(C=C1)OC)O | C16H21NO2
